US06559173B1
3-{[5-(3-Methyl-benzyl)-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-(3-methyl-benzyl)-2H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.240 gms. 5-(3-methyl-benzyl)-2H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (2.5 mL) overnight.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-(3-methyl-benzyl)-2H-pyrazol-3-ylamine | CC=1C=C(CC=2C=C(NN2)N)C=CC1 | C11H13N3
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-{[5-(3-Methyl-benzyl)-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one | CC=1C=C(CC=2C=C(NN2)NC=C2C(NC3=CC=CC=C23)=O)C=CC1 | C20H18N4O
